US09382228B2
A solution of 1-(trifluoromethyl)cyclopropane-1-carboxylic acid (0.5 g, 3.24 mmol) in DCM (5 mL) was treated with oxalyl chloride (0.355 mL, 4.06 mmol) and 1 drop of DMF, stirred for 1 h at RT, added drop-wise to a solution of NH4OH (˜15M, 5 mL, ˜75 mmol) in THF (5 mL) and stirred at RT overnight. The solids were removed via filtration through diatomaceous earth and rinsed well with 4:1 DCM/THF. The filtrate was saturated with solid NaCl, extracted with 4:1 DCM/THF (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford 1-(trifluoromethyl)cyclopropanecarboxamide (440 mg, 89%). 1H NMR (400 MHz, DMSO-d6): δ 7.31 (s, 1H), 7.15 (s, 1H), 1.29-1.24 (m, 2H), 1.19-1.15 (m, 2H).

reactant | 1-(trifluoromethyl)cyclopropane-1-carboxylic acid | 3.24 mmol, 0.5 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | oxalyl chloride | 4.06 mmol, 0.355 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | ˜75 mmol, ˜15M, 5 mL | [NH4+].[OH-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(trifluoromethyl)cyclopropanecarboxamide | 440 mg, 89% | FC(C1(CC1)C(=O)N)(F)F | C5H6F3NO
